US07217697B2
3-Bromomethylphenyl acetate
A suspension of m-tolyl acetate (583 mg), N-bromosuccinimide (691 mg) and α,α′-azobis(isobutyronitrile) (13 mg) in tetrachloromethane (10 mL) was refluxed for 1 hour. The reaction mixture was cooled to room temperature, and the insoluble material was removed by filtration. The filtrate was concentrated to give the title compound (893 mg).

reactant | m-tolyl acetate | 583 mg | C(C)(=O)OC=1C=C(C=CC1)C | C9H10O2
reactant | N-bromosuccinimide | 691 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 10 mL | ClC(Cl)(Cl)Cl | CCl4
catalyst | α,α′-azobis(isobutyronitrile) | 13 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 3-Bromomethylphenyl acetate | 893 mg | C(C)(=O)OC1=CC(=CC=C1)CBr | C9H9BrO2
